US06087364
Sodium borohydride (4.1 g, 109.4 mmol) is added to a solution of 2,3-dihydro-2-methyl-3-oxo-1H-isoindole-1-acetic acid methyl ester (Synthesis, 1986:755) (4.8 g, 21.9 mmol) in 50 mL of MeOH at room temperature and stirred overnight. The reaction is quenched by addition of 100 mL of 2.0 N NaOH, and the MeOH is evaporated. The solution is extracted with CH2Cl2 (3×100 mL). The extracts are combined and dried over Na2SO4 and evaporated to give 2.2 g (52% yield) of 1,3-dihydro-2-methyl-3-(2-hydroxyethyl)-2H-isoindol-1-one.

reactant | Sodium borohydride | 109.4 mmol, 4.1 g | [BH4-].[Na+]
reactant | 2,3-dihydro-2-methyl-3-oxo-1H-isoindole-1-acetic acid methyl ester | 21.9 mmol, 4.8 g | COC(CC1N(C(C2=CC=CC=C12)=O)C)=O | C12H13NO3
solvent | MeOH | 50 mL | CO | CH4O
product | 1,3-dihydro-2-methyl-3-(2-hydroxyethyl)-2H-isoindol-1-one | 2.2 g, 52% yield | CN1C(C2=CC=CC=C2C1CCO)=O | C11H13NO2
